US08283353B2
4′-{[7-butyl-4-(2,3-dimethyl-1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[7-butyl-5-oxo-4-(4-oxocyclohexyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1 g), 2,3-dimethylpropane-1,3-diol (0.56 g), p-toluenesulfonic acid monohydrate (0.036 g) and toluene (30 mL) was subjected to an azeotropic dehydration reaction by stirring at 110° C. for 3 hr in a reaction vessel equipped with a Dean-stark trap. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (1.2 g, 100%).

reactant | 4′-{[7-butyl-5-oxo-4-(4-oxocyclohexyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1 g | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CCC(CC2)=O)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C29H29N5O2
reactant | 2,3-dimethylpropane-1,3-diol | 0.56 g | CC(CO)C(O)C | C5H12O2
catalyst | p-toluenesulfonic acid monohydrate | 0.036 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-{[7-butyl-4-(2,3-dimethyl-1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.2 g, 100% | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CCC1(OC(C(O1)C)C)CC2)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C33H37N5O3
